datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1C(=NO)C[C@H]2[C@@]3(C)CC[C@H]4[C@@H](OC(=O)[C@@H]4C)[C@]13OC(c1ccccc1)=[N:10]2.C[C@@H]1CCC[C@H](C)[N+:21]1(C)[H:20]>>CC1C(=NO)C[C@H]2[C@@]3(C)CC[C@H]4[C@@H](OC(=O)[C@@H]4C)[C@]13OC(c1ccccc1)=[N+:10]2[H:20].C[C@@H]1CCC[C@H](C)[N:21]1C 10=20;20,21=21",
"CN(C)c1ccc2cc3c4ccccc4ccc3[n+:21]([H:20])c2c1.[NH3+]CCCCCC[NH2:10]>>CN(C)c1ccc2cc3c4ccccc4ccc3[n:21]c2c1.[NH3+]CCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CNCC(C)C[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CNCC(C)C[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20].[OH-:10]>>C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-].[OH:10][H:20] 10=20;20,21=21",
"COCCSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])=C1>>COCCSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"C1OC1C[N:10](CC1CO1)CC1CO1.CC[N+:21](CC)(C(C)C(=O)Nc1c(C)cccc1C)[H:20]>>C1OC1C[N+:10](CC1CO1)(CC1CO1)[H:20].CC[N:21](CC)C(C)C(=O)Nc1c(C)cccc1C 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=[NH2+])N(C)C)cc1.Nc1cc[n+:21]([H:20])c([O-])n1>>Cc1ccc(S(=O)(=O)[N:10](CCC(=[NH2+])N(C)C)[H:20])cc1.Nc1cc[n:21]c([O-])n1 10=20;20,21=21",
"CC[NH+:21](c1ccccc1)[H:20].[O-]c1cc2ccccc2n[n:10]1>>CC[NH:21]c1ccccc1.[O-]c1cc2ccccc2n[n+:10]1[H:20] 10=20;20,21=21",
"Cc1cc(C)[n:10]c(C)c1CO.O=C([O-])CN(CC(=O)[O:21][H:20])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O>>Cc1cc(C)[n+:10]([H:20])c(C)c1CO.O=C([O-])CN(CC(=O)[O-:21])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)O)c1O 10=20;20,21=21",
"CCCC[NH:10]CC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCC[NH+:10](CC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C1C=Cc2ccccc2C=C1[O-:10].c1ccc2c[n+:21]([H:20])ncc2c1>>O=C1C=Cc2ccccc2C=C1[O:10][H:20].c1ccc2c[n:21]ncc2c1 10=20;20,21=21",
"Cc1cc(CO)c([O-:10])c(CO)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(CO)c([O:10][H:20])c(CO)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+]1(CCCCCC(=O)[O:21][H:20])CCCCC1.Nc1[nH][n:10]c(N)c1/N=N/c1ccc(C(=O)O)cc1>>C[N+]1(CCCCCC(=O)[O-:21])CCCCC1.Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccc(C(=O)O)cc1 10=20;20,21=21",
"Cc1ccc(N[N+:21](=C(C#N)C#N)[H:20])c([N+](=O)[O-])c1.Nc1ccc(S(=O)(=O)[N-:10]c2nccs2)cc1>>Cc1ccc(N[N:21]=C(C#N)C#N)c([N+](=O)[O-])c1.Nc1ccc(S(=O)(=O)[N:10](c2nccs2)[H:20])cc1 10=20;20,21=21",
"COC(=O)c1ccccc1[S-:10].O=C(N[NH2+:21][H:20])c1ccccc1>>COC(=O)c1ccccc1[S:10][H:20].O=C(N[NH2:21])c1ccccc1 10=20;20,21=21",
"CC[C@]12CCC[NH+]3CC[C@@]4(c5cccc(OC)c5[NH:10][C@H]4CC1)[C@@H]32.[NH3+]CCC[Se:21][H:20]>>CC[C@]12CCC[NH+]3CC[C@@]4(c5cccc(OC)c5[NH+:10]([H:20])[C@H]4CC1)[C@@H]32.[NH3+]CCC[Se-:21] 10=20;20,21=21",
"CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O-:10].CCCCCCCCCCCC[N+:21](CC(C)O)(CC(O)CC)[H:20]>>CC(C)=CCC1=C(O)C(O)(CC=C(C)C)C(=O)C(C(=O)CC(C)C)=C1[O:10][H:20].CCCCCCCCCCCC[N:21](CC(C)O)CC(O)CC 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O:21][H:20])c3[C@H](C2)N1C.c1c[nH+]c(Cc2[nH]cc[n:10]2)[nH]1>>COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O-:21])c3[C@H](C2)N1C.c1c[nH+]c(Cc2[nH]cc[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH+:21]1[H:20].[O-]N=C1CCC/C(=N\[O-:10])C1=N[O-]>>O=C([O-])[C@@H]1CCCN1C(=O)[C@@H]1CCC[NH:21]1.[O-]N=C1CCC/C(=N\[O:10][H:20])C1=N[O-] 10=20;20,21=21",
"COCC[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>COCC[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"O=C([C@@H]1O[C@H](Oc2ccc3[nH+]cccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20].c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n:10]c23)cc1>>O=C([C@@H]1O[C@H](Oc2ccc3[nH+]cccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21].c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n+:10]([H:20])c23)cc1 10=20;20,21=21",
"CN(C)c1nc[n:10]c2[nH]ncc12.C[NH+:21](CCC#N)[H:20]>>CN(C)c1nc[n+:10]([H:20])c2[nH]ncc12.C[NH:21]CCC#N 10=20;20,21=21",
"N#CCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>N#CCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"N#CC(C#N)=[N:10]Nc1ccccc1C(F)(F)F.NC(=O)Nc1ncnc2c1[nH]c[n+:21]2[H:20]>>N#CC(C#N)=[N+:10](Nc1ccccc1C(F)(F)F)[H:20].NC(=O)Nc1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"C[n+]1cc([O:21][H:20])ccn1.N#CC(C#N)=C(C#N)[N-:10]c1cccc([N+](=O)[O-])c1>>C[n+]1cc([O-:21])ccn1.N#CC(C#N)=C(C#N)[N:10](c1cccc([N+](=O)[O-])c1)[H:20] 10=20;20,21=21",
"O=C1C(c2ccccc2)=C([O-:10])C(=O)c2ccccc21.O=S(=O)(Nc1ccc[nH+]c1)c1ccc([NH2+:21][H:20])cc1>>O=C1C(c2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21.O=S(=O)(Nc1ccc[nH+]c1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"C[C@@H](N)[C@H](C)[NH2:10].Cc1ccc(S(=O)(=O)[N:21](C(CC(N)=O)C(=O)[O-])[H:20])cc1>>C[C@@H](N)[C@H](C)[NH2+:10][H:20].Cc1ccc(S(=O)(=O)[N-:21]C(CC(N)=O)C(=O)[O-])cc1 10=20;20,21=21",
"CC(=O)[C@H]1C[C@@H](CC(=O)[O-:10])C1(C)C.Cc1ccc([O:21][H:20])c([N+](=O)[O-])c1>>CC(=O)[C@H]1C[C@@H](CC(=O)[O:10][H:20])C1(C)C.Cc1ccc([O-:21])c([N+](=O)[O-])c1 10=20;20,21=21",
